US08957203B2
Preparation of 5-chloro-1-fluoro-3-propoxyisoquinoline
To a solution of 1,5-dichloro-3-propoxyisoquinoline (565 mg, 2.206 mmol) in DMSO (5 mL) was added CsF (369 mg, 2.427 mmol) and heated to 140° C. for 2 hrs. LC/MS showed the desired product. The reaction was diluted with Ethylacteate and washed with water, and brine. The organic phase was collected, dried over MgSO4, and concentrated under vacuum to give the crude product as a reddish brown solid. Crude material purified via silica gel chromatography (90 g column; 0-40% EtOAc:Hex) to get the product 5-chloro-1-fluoro-3-propoxyisoquinoline (440 mg, 83% yield) as a yellow solid. MS: MS m/z 240.05(M++1).

reactant | 1,5-dichloro-3-propoxyisoquinoline | 2.206 mmol, 565 mg | ClC1=NC(=CC2=C(C=CC=C12)Cl)OCCC | C12H11Cl2NO
reactant | CsF | 2.427 mmol, 369 mg | [F-].[Cs+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 5-chloro-1-fluoro-3-propoxyisoquinoline | ClC1=C2C=C(N=C(C2=CC=C1)F)OCCC | C12H11ClFNO
